US06872833B2
(+)-N-(7-[1,4]Dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-2-(2-methoxy-ethoxy)-isonicotinamide
From (+)-2-bromo-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-isonicotinamide sodium hydride and 2-methoxyethanol in dioxane and DMF. [α]D20=+17.6° (c=0.15, CHCl3), ES-MS m/e (%): 446 (M+H+, 100).

reactant | (+)-2-bromo-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-isonicotinamide sodium hydride | [H-].[Na+].BrC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3OCCOC3)OC)C=CN1
reactant | 2-methoxyethanol | COCCO | C3H8O2
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | (+)-N-(7-[1,4]Dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-2-(2-methoxy-ethoxy)-isonicotinamide | O1C(COCC1)C1=CC=C(C=2N=C(SC21)NC(C2=CC(=NC=C2)OCCOC)=O)OC | C21H23N3O6S
